US08017602B2
Step ii) Methyl 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)acetate
Pd-118 (0.201 g) was dissolved in acetonitrile (20 mL) and stirred for 5 min before addition of potassium carbonate (5.34 g), water (20 mL) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (2.95 g). The mixture was stirred for a further 5 min then methyl 2-(3-bromo-4-fluorophenyl)acetate [Example 13, Step i)] (3.18 g) in MeCN (2 mL) added and the reaction was heated at the heating block (80° C.) for 25 min. The mixture was cooled and extracted into DCM (100 mL). Organic was separated, dried over magnesium sulfate. Solvents were evaporated to give a brown oil. The crude product was purified by flash silica chromatography, elution gradient 0 to 60% ethyl acetate in isohexane to afford the subtitled compound (3.36 g) as a gum. 1H NMR (300 MHz, CDCl3) δ 7.84 (s, 1H), 7.77 (d, J=2.3 Hz, 1H), 7.44 (dd, J=7.3, 1.5 Hz, 1H), 7.12-7.02 (m, 2H), 3.96 (s, 3H), 3.71 (s, 3H), 3.62 (s, 2H)

reactant | potassium carbonate | 5.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 mL | O | H2O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 2.95 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | methyl 2-(3-bromo-4-fluorophenyl)acetate | BrC=1C=C(C=CC1F)CC(=O)OC | C9H8BrFO2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | MeCN | 2 mL | CC#N | C2H3N
product | Methyl 2-(4-fluoro-3-(1-methyl-1H-pyrazol-4-yl)phenyl)acetate | 3.36 g | FC1=C(C=C(C=C1)CC(=O)OC)C=1C=NN(C1)C | C13H13FN2O2
